US07683067B2
3-(5-Cyanopyridin-2-yl)-2-hydroxy-N-(2-methoxyethyl)-1H-indole-5-carboxamide hydrochloride
Starting materials: N-(2-methoxyethyl)-2-oxoindoline-5-carboxamide and 6-chloronicotinonitrile. The residue was purified on a silica gel column using a gradient chloroform/methanol, (100:1 to 10:1), as the eluent. Yield: 28% of the title compound: 1H NMR (DMSO-d6, 400 MHz) δ 10.89 (s, 1H), 8.56 (m, 1H), 8.49 (m, 1H), 7.98 (s, 1H), 7.85 (dd, J=10, 2 Hz, 1H), 7.70 (d, J=10 Hz, 1H), 7.59 (dd, J=9, 2 Hz, 1H) 6.96 (d, J=9 Hz, 1H), 3.45 (m, 4H), 3.27 (s, 3H); MS (ES) m/z 337 (M++1).

reactant | N-(2-methoxyethyl)-2-oxoindoline-5-carboxamide | COCCNC(=O)C=1C=C2CC(NC2=CC1)=O | C12H14N2O3
reactant | 6-chloronicotinonitrile | ClC1=NC=C(C#N)C=C1 | C6H3ClN2
product | 3-(5-Cyanopyridin-2-yl)-2-hydroxy-N-(2-methoxyethyl)-1H-indole-5-carboxamide hydrochloride | Yield: 28% | Cl.C(#N)C=1C=CC(=NC1)C1=C(NC2=CC=C(C=C12)C(=O)NCCOC)O | InChI=1S/C18H16N4O3.ClH/c1-25-7-6-20-17(23)12-3-5-14-13(8-12)16(18(24)22-14)15-4-2-11(9-19)10-21-15;/h2-5,8,10,22,24H,6-7H2,1H3,(H,20,23);1H
